US08835659B2
Preparation of 3-(4-fluorophenyl)benzofuran-4,6-diol, with the Following Structural Formula
This compound was prepared using Method B from 3,5-dimethoxyphenol and 2-bromo-1-(4-fluorophenyl)ethanone: Yield 27% following procedures B.2, B.3 and B.5; m.p. 125° C. (dec.); IR 3508, 1612, 1508, 1455, 1240, 1121, 1090, 1048 cm−1; 1H-NMR (500 MHz, δ ppm, DMSO-d6) 9.84 (s, 1H), 9.36 (s, 1H), 7.77 (s, 1H), 7.70 (dd, J=8.1 Hz, 5.9 Hz, 2H), 7.20 (t, J=8.8 Hz, 2H), 6.41 (s, 1H), 6.25 (s, 1H); 13C NMR (126 MHz, δ ppm, CD3OD) 163.7 (d, J=243.9 Hz), 160.2, 157.7, 153.6, 140.4, 132.0 (d, J=7.9 Hz), 130.4 (d, J=3.3 Hz), 123.3, 115.6 (d, J=21.6 Hz), 109.2, 99.1, 91.0.

reactant | 3,5-dimethoxyphenol | COC=1C=C(C=C(C1)OC)O | C8H10O3
reactant | 2-bromo-1-(4-fluorophenyl)ethanone | BrCC(=O)C1=CC=C(C=C1)F | C8H6BrFO
product | 3-(4-fluorophenyl)benzofuran-4,6-diol | Yield 27% | FC1=CC=C(C=C1)C1=COC=2C1=C(C=C(C2)O)O | C14H9FO3
